US05023258
2-(2,4-Dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-(4-[4-(4-[2,2,2-trifluoroethanesulphonamido]phenyl)piperazin-1-yl]phenoxy)propan-2-ol
To a solution of 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (see Preparation 1) (0.2 g, 0.37 mmole) and pyridine (0.06 g, 0.75 mmole) in methylene chloride (20 ml) at 0° was added, dropwise, a solution of 2,2,2-trifluoroethanesulphonyl chloride (0.095 g, 0.52 mmole) in methylene chloride (1 ml) and the resulting mixture was stirred for 0.5 hour. The reaction was quenched by the addition of aqueous citric acid, the resulting organic phase separated, washed with water and dried over magnesium sulphate. After concentration under reduced pressure the residue was purified by flash chromatography on silica gel eluting with ethyl acetate (80):hexane (20) to yield, after collection and evaporation of appropriate fractions, the desired product as a foam, m.p. 74°-75° (0.159 g, 62%).

reactant | 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.37 mmole, 0.2 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C27H28Cl2N6O2
reactant | pyridine | 0.75 mmole, 0.06 g | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroethanesulphonyl chloride | 0.52 mmole, 0.095 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,4-Dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-(4-[4-(4-[2,2,2-trifluoroethanesulphonamido]phenyl)piperazin-1-yl]phenoxy)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NS(=O)(=O)CC(F)(F)F)O | C29H29Cl2F3N6O4S
